US09227985B2
(4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-2-vinyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine
(4S)-2-Chloro-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine (277 mg, 0.755 mmol), 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (0.19 mL, 1.1 mmol) [Aldrich, cat. #633348], and potassium phosphate (0.3 g, 2 mmol) [Aldrich, cat. #P5629], were dissolved in water (2.4 mL) and 1,4-dioxane (10 mL). The reaction mixture was deoxygenated with nitrogen and dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine-(2′-aminobiphenyl-2-yl)(chloro)palladium (1:1) (0.03 g, 0.04 mmol) [Aldrich, cat. #741825] was added. The resulting mixture was deoxygenated with nitrogen and heated at 80° C. for 3 h. The reaction mixture was then allowed to cool to room temperature. Ethyl acetate was added, and the mixture was washed with water and brine, then dried over sodium sulfate and concentrated. The resulting residue was purified by flash chromatography eluting ethyl acetate in hexanes (75-100%, ethyl acetate containing 20% MeOH) to afford the desired product (0.21 g, 78%). LCMS for C21H19O2N4 (M+H)+: calculated m/z=359.2. found 359.3; 1H NMR (400 MHz, CD3OD) δ 8.61-8.53 (m, 1H), 7.74 (m, 1H), 7.39 (d, J=8.4 Hz, 1H), 7.34 (dd, J=7.7, 4.8 Hz, 1H), 7.14 (d, J=8.4 Hz, 1H), 6.75 (d, J=4.1 Hz, 1H), 6.69 (d, J=11.4 Hz, 1H), 6.34 (dd, J=17.5, 1.0 Hz, 1H), 6.09 (dd, J=2.5 Hz, 2H), 5.68 (dd, J=11.4, 1.0 Hz, 1H), 4.96 (dd, J=11.6, 2.1 Hz, 1H), 4.64 (dd, J=11.6, 3.1 Hz, 1H), 2.29 (s, 3H), 2.15 (s, 3H).

reactant | (4S)-2-Chloro-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 0.755 mmol, 277 mg | ClC1=NC2=CC=C(C3=C2N1[C@H](CO3)C3=NC=CC=C3)C=3C(=NOC3C)C | C19H15ClN4O2
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane | 1.1 mmol, 0.19 mL | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | potassium phosphate | 2 mmol, 0.3 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | 2.4 mL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (2′-aminobiphenyl-2-yl)(chloro)palladium | 0.04 mmol, 0.03 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1.NC1=C(C=CC=C1)C1=C(C=CC=C1)[Pd]Cl
product | (4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-2-vinyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 0.21 g, 78% | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)C=C)C | C21H18N4O2
